US08486953B2
Preparation of 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonyl chloride
5-Methylthieno[2,3-d]pyrimidin-4(3H)-one (2 g, 12 mmol) was added portionwise into chlorosulfonic acid (8.0 mL, 120 mmol) maintaining the internal temperature below 0° C. After addition the reaction was stirred for 10 minutes, thionyl chloride (4.4 mL, 60 mmol) added drop wise, the mixture stirred for 0.5 hours at ambient temperature and then at reflux for 2 hours. The solution was poured onto crushed ice, the precipitated solid collected by filtration, washed with ice-water, and dried under vacuum to give cream solid. (1.1 g, 34%).

reactant | 5-Methylthieno[2,3-d]pyrimidin-4(3H)-one | 12 mmol, 2 g | CC1=CSC=2N=CNC(C21)=O | C7H6N2OS
reactant | chlorosulfonic acid | 120 mmol, 8.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 60 mmol, 4.4 mL | S(=O)(Cl)Cl | Cl2OS
product | 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-sulfonyl chloride | CC1=C(SC=2N=CNC(C21)=O)S(=O)(=O)Cl | C7H5ClN2O3S2
